US06770637B2
c) 5-Bromo-2-chloro-4-(2-chloro-phenyl)-pyridine
A mixture of 10.8 g (33.9 mmol) 5-bromo-2-chloro-4-iodo-pyridine, 5.84 g (37.3 mmol) 2-chlorophenylboronic acid, 200 ml dimethoxyethane and 50 ml of a 2 M aqueous solution of sodium carbonate was deoxygenated by three freeze-thaw cycles. After addition of 381 mg (1.70 mmol) palladium(II) acetate and 917 mg (3.39 mmol) triphenylphosphine the reaction mixture was stirred at 90° C. for 4 h. Cooling to room temperature was followed by dilution with water and extraction with two portions of tert-butyl methyl ether. The combined organic extracts were washed with brine, dried with magnesium sulfate and concentrated. Column chromatography afforded 7.74 g (75%) of the title compound as a white solid.

reactant | 5-bromo-2-chloro-4-iodo-pyridine | 33.9 mmol, 10.8 g | BrC=1C(=CC(=NC1)Cl)I | C5H2BrClIN
reactant | 2-chlorophenylboronic acid | 37.3 mmol, 5.84 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 3.39 mmol, 917 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium(II) acetate | 1.70 mmol, 381 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
product | 5-Bromo-2-chloro-4-(2-chloro-phenyl)-pyridine | 7.74 g, 75% | BrC=1C(=CC(=NC1)Cl)C1=C(C=CC=C1)Cl | C11H6BrCl2N
